US04841077
A solution of 4',5,7-triacetoxy-2-methylisoflavone (5 g), benzoyl peroxide (0.3 g) and N-bromosuccinimide (3.9 g) in 300 ml carbon tetrachloride was heated under reflux for 12 hours, the solvent was distilled off under reduced pressure, water was added to the solid residue, the mixture was stirred well, and the crude product collected by filtration was recrystallized from a methanol/chloroform mixed solvent, affording 4.3 g of 4',5,7-triacetoxy-2-bromomethylisoflavone.

reactant | 4',5,7-triacetoxy-2-methylisoflavone | 5 g | C(C)(=O)OC1=CC=C(C2=C(OC3=CC(=CC(=C3C2=O)OC(C)=O)OC(C)=O)C)C=C1 | C22H18O8
reactant | benzoyl peroxide | 0.3 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | N-bromosuccinimide | 3.9 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 300 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4',5,7-triacetoxy-2-bromomethylisoflavone | 4.3 g | C(C)(=O)OC1=CC=C(C2=C(OC3=CC(=CC(=C3C2=O)OC(C)=O)OC(C)=O)CBr)C=C1 | C22H17BrO8
